US06017950
Synthesis of Monensin Benzyl Ester
Monensin sodium salt (1.0 g, 1.4 mmol) in acetonitrile (20 ml) was treated with diazabicyclo [2.2.2] octane (0.3 g, 2.7 mmol) followed by benzyl bromide (2 g, 11.7 mmol) and cryptand [2.2.2]. The reaction mixture was stirred at room temperature with exclusion of light for 14 days. After 10 days an additional quantity of benzyl bromide (2 g, 11.7 mmol) was added. The solvent was evaporated and the crude product redissolved in dichloromethane, washed with deionized water and dried over magnesium sulfate. The crude product was chromatographed on silica gel eluting with hexane-ethyl acetate gradient. Excess benzyl bromide eluted from the column first followed by benzylmonensin which was isolated as a colorless oil after removal of the solvent (280 mg, 26%), (MS, positive ion ESI showed 783 peak; calc. for sodiated product 783). This compound has been reported previously (Tsukube J. Org. Chem. 56, 875, 1991).

reactant | Monensin sodium salt | 1.4 mmol, 1.0 g | CC[C@]1(CC[C@@H](O1)[C@@]2(CC[C@@]3(O2)C[C@@H]([C@H]([C@H](O3)[C@@H](C)[C@H]([C@H](C)C(=O)[O-])OC)C)O)C)[C@H]4[C@H](C[C@@H](O4)[C@@H]5[C@H](C[C@H]([C@@](O5)(CO)O)C)C)C.[Na+]
reactant | diazabicyclo [2.2.2] octane | 2.7 mmol, 0.3 g | N12NCC(CC1)CC2 | C6H12N2
reactant | benzyl bromide | 11.7 mmol, 2 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl bromide | 11.7 mmol, 2 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Monensin Benzyl Ester | CC[C@]1(CC[C@@H](O1)[C@@]2(CC[C@@]3(O2)C[C@@H]([C@H]([C@H](O3)[C@@H](C)[C@H]([C@H](C)C(=O)OCC4=CC=CC=C4)OC)C)O)C)[C@H]5[C@H](C[C@@H](O5)[C@@H]6[C@H](C[C@H]([C@@](O6)(CO)O)C)C)C | C43H68O11
